US04240820
16.4 g (0.1 mole) of 2-amino-3-cyano-4-tert.-butylfuran were heated to 100° C. with 24 ml (0.4 mole) of acetic acid and 10.4 ml (0.11 mole) of acetic anhydride for one hour. Thereafter, the reaction mixture was evaporated under reduced pressure and the residue was recrystallized from a mixture of toluene/cyclohexane (1:2). 17.2 g of 2-acetylamino-3-cyano-4-tert.-butyl-furan of melting point 135° C. were obtained in this manner.

reactant | 2-amino-3-cyano-4-tert.-butylfuran | 0.1 mole, 16.4 g | NC=1OC=C(C1C#N)C(C)(C)C | C9H12N2O
reactant | acetic acid | 0.4 mole, 24 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.11 mole, 10.4 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetylamino-3-cyano-4-tert.-butyl-furan | 17.2 g | C(C)(=O)NC=1OC=C(C1C#N)C(C)(C)C | C11H14N2O2
